US08455495B2
In a RBF equipped with reflux condenser, ethyl 1-methyl-2,8-dioxo-1,2,7,8-tetrahydropyrido[2,3-d]pyridazine-3-carboxylate (1.65 g, 6.63 mmol) was treated with phosphorus oxychloride (8.00 mL, 85.8 mmol). The reaction mixture was stirred in an oil bath at 110° C. for 90 min, and then cooled to RT. The volatiles were removed in vacuo and the residue was treated with CH2Cl2 then concentrated in vacuo. The residue was treated with CH2Cl2/Et2O and the resulting suspended solid was collected by suction filtration and dried in vacuo to give ethyl 8-chloro-1-methyl-2-oxo-1,2-dihydropyrido[3,2-d]pyridazine-3-carboxylate as a green solid. MS (ESI, pos. ion) m/z: 268 (M+1). 1H NMR (400 MHz, CDCl3) δ ppm 1.43 (t, J=7.0 Hz, 3H), 4.09 (s, 3H), 4.45 (q, J=7.0 Hz, 2H), 8.29 (s, 1H), 9.11 (s, 1H).

reactant | ethyl 1-methyl-2,8-dioxo-1,2,7,8-tetrahydropyrido[2,3-d]pyridazine-3-carboxylate | 6.63 mmol, 1.65 g | CN1C(C(=CC2=C1C(NN=C2)=O)C(=O)OCC)=O | C11H11N3O4
reactant | phosphorus oxychloride | 85.8 mmol, 8.00 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 8-chloro-1-methyl-2-oxo-1,2-dihydropyrido[3,2-d]pyridazine-3-carboxylate | ClC=1C2=C(C=NN1)C=C(C(N2C)=O)C(=O)OCC | C11H10ClN3O3
